US06762180B1
(10) 3-Z-[1-(4-(4-methyl-piperazin-1-yl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone and 4-(4-methyl-piperazin-1-yl)-aniline Rf value: 0.3 (aluminium oxide, ethyl acetate) C29H30N4O3

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(C1=CC=CC=C1)OCC)=O | C22H21NO5
reactant | 4-(4-methyl-piperazin-1-yl)-aniline | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
product | 3-Z-[1-(4-(4-methyl-piperazin-1-yl)-anilino)-1-phenyl-methylene]-6-ethoxycarbonyl-2-indolinone | CN1CCN(CC1)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C29H30N4O3
